US09034900B2
Step 3: 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methyl-3-(1-propan-2-ylpyrazol-4-yl)oxypyridin-2-one
A mixture of 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-3-iodo-1-methylpyridin-2-one (91 mg, 0.2 mmol), 1-propan-2-ylpyrazol-4-ol (45 mg, 0.36 mmol), CuI (4 mg, 10%), 2,2,6,6-tetramethyl-3,5-heptanedione (8 uL, 0.04 mmol) and K3PO4 (85 mg, 0.4 mmol) in DMSO (1 mL) was purged with nitrogen for 10 min, capped, and heated to 110° C. for 13 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by prep-HPLC to afford the title compound (36 mg, 40%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.18-0.26 (m, 2H) 0.44-0.53 (m, 2H) 1.03-1.10 (m, 1H) 1.37-1.43 (m, 6H) 3.17-3.21 (m, 3H) 3.54-3.61 (m, 3H) 3.87-3.93 (m, 2H) 4.33-4.46 (m, 1H) 7.20-7.25 (m, 1H) 7.25-7.28 (m, 1H) 7.33-7.36 (m, 1H) 7.70-7.74 (m, 1H) 7.76-7.85 (m, 4H). LCMS (M+H)+=458.

reactant | 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-3-iodo-1-methylpyridin-2-one | 0.2 mmol, 91 mg | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)I | C17H18INO4S
reactant | 1-propan-2-ylpyrazol-4-ol | 0.36 mmol, 45 mg | CC(C)N1N=CC(=C1)O | C6H10N2O
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.04 mmol, 8 uL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | K3PO4 | 0.4 mmol, 85 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 4 mg | [Cu]I
product | 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methyl-3-(1-propan-2-ylpyrazol-4-yl)oxypyridin-2-one | 36 mg, 40% | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)OC=1C=NN(C1)C(C)C | C23H27N3O5S
